US05200415
Synthesis of ethyl 7-ethylpyrazolo[1,5-a]-pyridine-3-carboxylate
Next, 2.2 g (20.8 mmol) of Na2CO3 were added to a solution of 4.5 g (18.0 mmol) of 1-amino-2-ethylpyridinium iodide in 20 ml of DMF, followed by stirring at room temperature for 1 hour. Ethyl propiolate (3.6 g; 36.7 mmol) was added further, followed by stirring at room temperature for 20 hours. The solvent of the reaction mixture was distilled off. Water was added to the residue, followed by extraction with methylene chloride. After the methylene chloride layer was dried over Na2SO4, the solvent was distilled off and the residue was purified by chromatography on a silica gel column, whereby 0.93 g (4.3 mmol) of the title compound was obtained as crystals (yield: 24%-12% in two steps).

reactant | Na2CO3 | 20.8 mmol, 2.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-amino-2-ethylpyridinium iodide | 18.0 mmol, 4.5 g | [I-].N[N+]1=C(C=CC=C1)CC
reactant | Ethyl propiolate | 36.7 mmol, 3.6 g | C(C#C)(=O)OCC | C5H6O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl 7-ethylpyrazolo[1,5-a]-pyridine-3-carboxylate | 4.3 mmol, 0.93 g, yield: 24%-12% | C(C)C1=CC=CC=2N1N=CC2C(=O)OCC | C12H14N2O2
